US06110924
b) Preparation of Diethyl 2-phenyl-2-[4-(2-hydroxyethyl)piperazinyl]malonate
A solution of diethyl 2-bromo-2-phenylmalonate (16.8 g) in 150 ml of dimethylsulfoxide is heated to 90-100° C., then N-(2-hydroxyethyl)piperazine (27.9 g) is added and the reaction mixture is heated for additional 4 hours. The mixture is poured into water and extracted with ethyl acetate three times. The pooled organic extracts are washed with 1 N hydrochloric acid. The aqueous phase is basified with 1 N sodium hydroxide to pH=8-9 and it is extracted twice with ethyl acetate. The organic extracts are collected and are washed with a saturated aqueous solution of sodium chloride and dried over sodium sulfate. After removal of the solvent under reduced pressure, the residue is crystallized from diethylether petroleum ether 1:1 to give 6.5 g of the product, m.p. 63-64° C.

reactant | diethyl 2-bromo-2-phenylmalonate | 16.8 g | BrC(C(=O)OCC)(C(=O)OCC)C1=CC=CC=C1 | C13H15BrO4
reactant | N-(2-hydroxyethyl)piperazine | 27.9 g | OCCN1CCNCC1 | C6H14N2O
reactant | water | O | H2O
solvent | dimethylsulfoxide | 150 ml | CS(=O)C | C2H6OS
product | Diethyl 2-phenyl-2-[4-(2-hydroxyethyl)piperazinyl]malonate | 6.5 g | C1(=CC=CC=C1)C(C(=O)OCC)(C(=O)OCC)N1CCN(CC1)CCO | C19H28N2O5
